### PR TITLE
feat: add a predicate for monad morphisms

### PR DESCRIPTION
**Pull request by eric-wieser**
We show that various list operations are preserved under monad morphisms, and that FreeM.liftM is.

Note that [PolyFun already has the _bundled_ version](https://github.com/Verified-zkEVM/PolyFun/blob/main/PolyFun/Control/Monad/Hom.lean), but having the unbundled version now does not preclude adding the bundled version later.

### CODE REVIEW

File: Cslib/Foundations/Control/Monad/IsMonadHom/List.lean [hunk 1]
```diff
@@ -0,0 +1,208 @@
...
+This file proves that monadic operations on lists commute with monad homomorphisms
+(and applicative homomorphisms), and that `List.reverse` is a monad homomorphism on `List`.
+-/
+
+public section
+
+namespace Cslib
+
+universe u v w
+variable {m n : Type u → Type v}
```
Comment (kim-em) [inline Cslib/Foundations/Control/Monad/IsMonadHom/List.lean]: I think these should be allowed different target universes.

File: Cslib/Foundations/Data/PFunctor/Free.lean [hunk 2]
```diff
@@ -336,28 +347,32 @@ lemma liftM_bind {α β : Type uB} (x : P.FreeM α) (f : α → P.FreeM β) :
...
 
+/-- `FreeM.liftM interp` is a morphism of monads. -/
+theorem isMonadHom_liftM : Cslib.IsMonadHom P.FreeM m (FreeM.liftM interp) :=
+  .mk' (liftM_pure interp) (liftM_bind interp)
+
 @[simp]
-lemma liftM_map {α β : Type uB} (f : α → β) (x : P.FreeM α) :
-    (f <$> x).liftM interp = f <$> x.liftM interp := by
-  simp_rw [← LawfulMonad.bind_pure_comp, liftM_bind, liftM_pure]
+lemma liftM_map {α β : Type uB} (f : α → β) (interp : (a : P.A) → m (P.B a)) (x : P.FreeM α) :
```
Comment (kim-em) [inline Cslib/Foundations/Data/PFunctor/Free.lean:355]:
```suggestion
lemma liftM_map {α β : Type uB} (f : α → β) (x : P.FreeM α) :
```

to match the argument order of the other lemmas.

File: Cslib/Foundations/Control/Monad/IsMonadHom.lean [hunk 3]
```diff
@@ -0,0 +1,308 @@
...
+protected theorem id : IsMonadHom m m id where
+  toIsApplicativeHom := IsApplicativeHom.id m
+  map_bind _ _ := rfl
+
+protected theorem comp {f : ∀ {α}, n α → p α} {g : ∀ {α}, m α → n α}
+    (hf : IsMonadHom n p f) (hg : IsMonadHom m n g) :
+    IsMonadHom m p (f ∘ g) where
+  toIsApplicativeHom := hf.toIsApplicativeHom.comp hg.toIsApplicativeHom
+  map_bind _ _ := by simp [hf.map_bind, hg.map_bind]
+
```
Comment (kim-em) [inline Cslib/Foundations/Control/Monad/IsMonadHom.lean:211]: Maybe add:

```
theorem isMonadHom_monadLift [LawfulMonad m] [LawfulMonad n]
    [MonadLift m n] [LawfulMonadLift m n] :
    IsMonadHom m n MonadLift.monadLift :=
  .mk' LawfulMonadLift.monadLift_pure LawfulMonadLift.monadLift_bind

theorem isMonadHom_monadLiftT [LawfulMonad m] [LawfulMonad n]
    [MonadLiftT m n] [LawfulMonadLiftT m n] :
    IsMonadHom m n monadLift :=
  .mk' LawfulMonadLiftT.monadLift_pure LawfulMonadLiftT.monadLift_bind
```

File: Cslib/Foundations/Control/Monad/Free.lean
Comment (kim-em) [inline Cslib/Foundations/Control/Monad/Free.lean:326]: Maybe add

```
/-- A monad morphism out of `FreeM F` that agrees with `handler` on lifted operations is an
interpreter for `handler`, and hence (by `Interprets.eq`) equals `liftM handler`. -/
theorem _root_.Cslib.IsMonadHom.interprets {eval : ∀ {α}, FreeM F α → m α}
    (h : IsMonadHom (FreeM F) m eval)
    (handler : {ι : Type u} → F ι → m ι) (hl : ∀ {ι} (op : F ι), eval (lift op) = handler op)
    {α : Type u} : Interprets handler (eval : FreeM F α → m α) where
  apply_pure a := h.map_pure a
  apply_lift_bind op cont := by rw [h.map_bind, hl]
```

File: Cslib/Foundations/Control/Monad/IsMonadHom/List.lean [hunk 4]
```diff
@@ -0,0 +1,208 @@
...
+    {α : Type w} {β : Type u} (f : α → m β) (l : List α) :
+    F (l.mapM' f) = l.mapM' (F ∘ f) := by
+  induction l with grind [List.mapM']
+
+@[grind .]
+theorem map_listMapM [LawfulMonad m] [LawfulMonad n]
+    {F : ∀ {α}, m α → n α} (hf : IsMonadHom m n F)
+    {α : Type w} {β : Type u} (f : α → m β) (l : List α) :
+    F (l.mapM f) = l.mapM (F ∘ f) := by
+  induction l with grind
```
Comment (kim-em) [inline Cslib/Foundations/Control/Monad/IsMonadHom/List.lean]:
```suggestion
@[grind .]
theorem map_listMapM {F : ∀ {α}, m α → n α} (hf : IsMonadHom m n F)
    {α : Type w} {β : Type u} (f : α → m β) (l : List α) :
    F (l.mapM f) = l.mapM (F ∘ f) := by
  suffices ∀ acc, F (List.mapM.loop f l acc) = List.mapM.loop (F ∘ f) l acc from this []
  induction l with
  | nil => intro acc; exact hf.map_pure _
  | cons a l ih => intro acc; simp only [List.mapM.loop, hf.map_bind, ih]; rfl
```

Comment (kim-em) [reply Cslib/Foundations/Control/Monad/IsMonadHom/List.lean]: i.e. `LawfulMonad` not needed.

File: Cslib/Foundations/Control/Monad/IsMonadHom.lean [hunk 5]
```diff
@@ -0,0 +1,308 @@
...
+    (hf : IsAlternativeMonadHom n p f) (hg : IsAlternativeMonadHom m n g) :
+    IsAlternativeMonadHom m p (f ∘ g) where
+  toIsMonadHom := hf.toIsMonadHom.comp hg.toIsMonadHom
+  map_failure := by simp [hf.map_failure, hg.map_failure]
+  map_orElse _ _ := by simp [hf.map_orElse, hg.map_orElse]
+
+end IsAlternativeMonadHom
+
+open Std.Do WPMonad in
+theorem wp_isMonadHom [Monad m] [WPMonad m ps] : IsMonadHom m (PredTrans ps) WP.wp :=
```
Comment (kim-em) [inline Cslib/Foundations/Control/Monad/IsMonadHom.lean]:
```suggestion
theorem isMonadHom_wp [Monad m] [WPMonad m ps] : IsMonadHom m (PredTrans ps) WP.wp :=
```
is I think the naming convention?

Comment (kim-em) [reply Cslib/Foundations/Control/Monad/IsMonadHom.lean]: Maybe this should just be a separate file, to avoid pulling in `Std.Do.WP.Monad` here?

File: Cslib/Foundations/Control/Monad/IsMonadHom/List.lean [hunk 6]
```diff
@@ -0,0 +1,208 @@
...
+    {F : ∀ {α}, List α → List α} (hf : IsMonadHom List List F) {α β} (l : List α) (g : α → List β) :
+    F (l.flatMap g) = (F l).flatMap (F <| g ·) := hf.map_bind _ _
+
+@[grind .]
+theorem IsFunctorHom.map_listNil {F : ∀ {α}, List α → List α} (hf : IsFunctorHom List List F) {α} :
+    F ([] : List α) = [] := by
+  simpa [Subsingleton.elim (F ([] : List PEmpty)) []]
+    using (hf.map_map PEmpty.elim []).symm
+
+protected theorem List.isMonadHom_reverse : IsMonadHom List List List.reverse :=
```
Comment (kim-em) [inline Cslib/Foundations/Control/Monad/IsMonadHom/List.lean]: This is (accidentally?) in the CSLib namespace.

File: Cslib/Foundations/Control/Monad/IsMonadHom.lean [hunk 7]
```diff
@@ -0,0 +1,308 @@
+/-
+Copyright (c) 2026 Eric Wieser. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Eric Wieser
+-/
+module
+
+public import Cslib.Init
+public import Mathlib.Logic.Function.Defs
```
Comment (kim-em) [inline Cslib/Foundations/Control/Monad/IsMonadHom.lean]:
```suggestion
```

File: Cslib/Foundations/Control/Monad/IsMonadHom.lean [hunk 8]
```diff
@@ -0,0 +1,308 @@
...
+A function `f` is a morphism of functors if it preserves `<$>` and `Functor.mapConst`.
+-/
+structure IsFunctorHom (m n) [Functor m] [Functor n] (f : ∀ {α}, m α → n α) : Prop where
+  map_map {α β} (g : α → β) (x : m α) : f (g <$> x) = g <$> f x
+  map_mapConst {α β} (a : α) (x : m β) : f (Functor.mapConst a x) = Functor.mapConst a (f x)
+
+namespace IsFunctorHom
+variable {m n p : Type _ → Type _} [Functor m] [Functor n] [Functor p]
+
+attribute [grind .] map_map map_mapConst
```
Comment (kim-em) [inline Cslib/Foundations/Control/Monad/IsMonadHom.lean:41]:
```
attribute [grind .] map_map map_mapConst
```
Maybe these grind patterns work better?

```
-- namespace IsFunctorHom
grind_pattern map_map => IsFunctorHom m n f, g <$> x
grind_pattern map_mapConst => IsFunctorHom m n f, Functor.mapConst a x

-- namespace IsApplicativeHom
grind_pattern map_pure => IsApplicativeHom m n f, (pure a : m α)
grind_pattern map_seq => IsApplicativeHom m n f, Seq.seq x y
grind_pattern map_seqLeft => IsApplicativeHom m n f, SeqLeft.seqLeft x y
grind_pattern map_seqRight => IsApplicativeHom m n f, SeqRight.seqRight x y

-- namespace IsMonadHom
grind_pattern map_bind => IsMonadHom m n f, x >>= y

-- namespace IsAlternativeHom
grind_pattern map_failure => IsAlternativeHom m n f, (Alternative.failure : m α)
grind_pattern map_orElse => IsAlternativeHom m n f, HOrElse.hOrElse x y
```

File: Cslib/Foundations/Control/Monad/IsMonadHom/List.lean (hunk 6 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/IsMonadHom/List.lean]: This is deliberate, but if you think it's a bad idea I can move it back.

File: Cslib/Foundations/Control/Monad/IsMonadHom.lean (hunk 8 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/IsMonadHom.lean:41]: How do these compare to the patterns I already have? Can I print out the pattern generated by `grind_pattern` to compare with `grind?`?

File: Cslib/Foundations/Control/Monad/IsMonadHom.lean (hunk 3 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/IsMonadHom.lean:211]: Done, but with anonymous constructor dot notation names.

File: Cslib/Foundations/Control/Monad/IsMonadHom/List.lean (hunk 4 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/IsMonadHom/List.lean]: Nice, done with the `suffices` as a helper lemma.

File: Cslib/Foundations/Control/Monad/IsMonadHom.lean (hunk 5 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/IsMonadHom.lean]: I think it's fine to pull it in, I imagine anything using this should probably be using `wp` anyway.

Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/IsMonadHom.lean]: Also renamed to `IsMonadHom.mp`

File: Cslib/Foundations/Data/PFunctor/Free.lean (hunk 2 above)
Comment (eric-wieser) [reply Cslib/Foundations/Data/PFunctor/Free.lean:355]: I think the other lemmas have the wrong argument order, this matches the order for `liftM` itself.

File: Cslib/Foundations/Control/Monad/Free.lean
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/Free.lean:326]: I'm not super happy with this `Interprets` API in the first place, so haven't spent much time thinking about how best to capture this. Can we punt this to a follow-up?

Comment (kim-em) [reply Cslib/Foundations/Control/Monad/Free.lean:326]: Definitely!

File: Cslib/Foundations/Data/PFunctor/Free.lean (hunk 2 above)
Comment (kim-em) [reply Cslib/Foundations/Data/PFunctor/Free.lean:355]: Okay, uniformize or not, as you see fit!

File: Cslib/Foundations/Control/Monad/IsMonadHom/List.lean (hunk 6 above)
Comment (kim-em) [reply Cslib/Foundations/Control/Monad/IsMonadHom/List.lean]: Yes, I'd prefer we avoid `CSLib.List.XXX` stuff. (If we're that ashamed of it, it should be private.)

File: Cslib/Foundations/Control/Monad/IsMonadHom.lean (hunk 8 above)
Comment (kim-em) [reply Cslib/Foundations/Control/Monad/IsMonadHom.lean:41]: set_option trace.grind.ematch.pattern true

Comment (kim-em) [reply Cslib/Foundations/Control/Monad/IsMonadHom.lean:41]: In particular `grind .` produces:

```
map_map:  [@Functor.map m _ α β g x,  @Functor.map n _ _ _ g _,  IsFunctorHom _ _ _ _ f]
map_pure: [@pure m _ α a,             @pure n _ _ a,             IsApplicativeHom _ _ _ _ f]
map_bind: [@bind m _ α β x k,         @bind n _ _ _ _ _,         IsMonadHom _ _ _ _ f]
```

but the proposed `grind_pattern`s give:
```
map_map:  [IsFunctorHom m n f,     @Functor.map _ _ α β g x]
map_pure: [IsApplicativeHom m n f, @pure _ _ α a]
map_bind: [IsMonadHom m n f,       @bind _ _ α β x k]
```

Comment (kim-em) [reply Cslib/Foundations/Control/Monad/IsMonadHom.lean:41]: On second thoughts, maybe the proposed ones are too aggressive anyway. Without some actual proofs to try these out on, maybe it is premature optimization.

**Review by kim-em — APPROVED** [review]

File: Cslib/Foundations/Control/Monad/IsMonadHom/List.lean (hunk 6 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/IsMonadHom/List.lean]: Ok, will rename.

File: Cslib/Foundations/Control/Monad/IsMonadHom.lean (hunk 8 above)
Comment (eric-wieser) [reply Cslib/Foundations/Control/Monad/IsMonadHom.lean:41]: I wasn't able to get either spelling to help with the proofs, so have left this as is for now.
